US05641785
5.3. trans-7-Hydroxy-3-hydroxymethyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one
3.0 g (9.2 mmol) of trans-7-benzyloxy-3-hydroxymethyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one, dissolved in 20 ml of ethanol and 40 ml of tetrahydrofuran, are hydrogenated for 1 h in the presence of 1 g of 10% palladium-on-charcoal containing 50% of water. The mixture is then filtered on silica and the solvent is evaporated off under reduced pressure. 1.1 g of product are obtained.

reactant | trans-7-benzyloxy-3-hydroxymethyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | 9.2 mmol, 3.0 g | C(C1=CC=CC=C1)OC=1C=C2CC[C@H]3N(C2=CC1)C(O[C@H]3CO)=O | C19H19NO4
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | trans-7-Hydroxy-3-hydroxymethyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | 1.1 g | OC=1C=C2CC[C@H]3N(C2=CC1)C(O[C@H]3CO)=O | C12H13NO4
